US05891909
a) 5-Methyl-3-(3-pyridinylsulfonyloxy)phenol
A mixture of orcinol monohydrate (1.42 g, 0.01 mol) and 3-pyridylsulfonyl chloride hydrochloride (2.13 g, 0.01 mol), as prepared in J. Am. Chem. Soc., 114:4889 (1992), in saturated aqueous sodium bicarbonate (17.5 mL) and dichloromethane (50 mL) was stirred rapidly at ambient temperature for 2 days. The dichloromethane was separated and the aqueous layer was extracted with ethyl acetate (3×25 mL). The ethyl acetate and dichloromethane extracts were combined and washed with brine, dried over anhydrous sodium sulfate, and evaporated to dryness. The residue was recrystallized from ether and hexane, collected by filtration, and dried under high vacuum to give 1.54 g of a white solid (58% yield). 1H-NMR (300 MHz, CDCl3) δ 9.03 (d, 1H), 8.88 (dd, 1H), 8.16 (dt, 1H), 7.5 (m, 1H), 6.57 (d, 1H), 6.42 (s, 1H), 6.32 (t, 1H), 2.24 (s, 3H).

reactant | orcinol monohydrate | 0.01 mol, 1.42 g | O.C1(=CC(O)=CC(C)=C1)O
reactant | 3-pyridylsulfonyl chloride hydrochloride | 0.01 mol, 2.13 g | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | 17.5 mL | C([O-])(O)=O.[Na+]
product | 5-Methyl-3-(3-pyridinylsulfonyloxy)phenol | 1.54 g, 58% yield | CC=1C=C(C=C(C1)O)OS(=O)(=O)C=1C=NC=CC1 | C12H11NO4S
